US04468508
1.0 mol (in terms of phenolic hydroxyl group) of the novolak type substituted phenolic resin obtained in the above step (1) was dissolved in 6.0 mols of epichlorohydrin in a 1-liter flask equipped with a thermometer, separating tube, dropping funnel, and stirrer. 48% NaOH (1.05 mols as NaOH) was added dropwise over 6 hours. During this time epichlorohydrin and water were azeotropically boiled at 66° C. under reduced pressure (150 mmHg) and cooled by the separating tube, whereby the epichlorohydrin layer was returned to the reaction system whereas the water layer was discharged from the reaction system. After the reaction was completed, the epichlorohydrin was distilled away and the reaction product was dissolved in toluene. The salt formed as a by-product was filtered out, and then toluene was distilled away. Thus there was obtained a glycidyl ether of the novolak type substituted phenolic resin. This glycidyl ether was found to contain 500 ppm of hydrolyzable chlorine and to have an epoxy equivalent of 200, a softening point of 61° C., and a density of 1.19 g/cm3. The 13C-NMR of this glycidyl ether was also measured in the same way as in step (1). The results are shown in FIG. 2.

reactant | epichlorohydrin | 6.0 mols | C(Cl)C1CO1 | C3H5ClO
reactant | NaOH | 1.05 mols | [OH-].[Na+]
solvent | water | O | H2O
product | glycidyl ether | C(C1CO1)OCC1CO1 | C6H10O3
